US04795755
A mixture of 2,2,2-trifluoroethylisothiocyanate (13.8 g.) and 3-amino-1-(2-hydroxyethyl)pyrazole (12.5 g.) in acetonitrile dried over 4A molecular sieve (30 ml.) was stirred at room temperature for 4 hours. A precipitate formed after 30 minutes. Filtration gave 1-(2-hydroxyethyl)-3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazole (12.1 g.; 46%), m.p. 145°-146°.

reactant | 2,2,2-trifluoroethylisothiocyanate | 13.8 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | 3-amino-1-(2-hydroxyethyl)pyrazole | 12.5 g | NC1=NN(C=C1)CCO | C5H9N3O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2-hydroxyethyl)-3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazole | 12.1 g, 46% | OCCN1N=C(C=C1)NC(=S)NCC(F)(F)F | C8H11F3N4OS
